US06875765B2
A mixture of 11.7 g (21.72 mmol) of (S)-3-(2-benzyloxy-4-nitro-benzenesulfonylamino)-4,4-diethoxy-butyric acid tert-butyl ester, 2 g Raney Ni, and 200 mL tetrahydrofuran was shaken under a 50 psi hydrogen atomosphere for 16 h at room temperature. TLC analysis indicated complete reaction. The catalyst was filtered and the resulting solution was concentrated to give 11.2 g (21.72 mmol, 100%) of (S)-3-(4-amino-2-benzyloxy-benzenesulfonylamino)-4,4-diethoxy-butyric acid tert-butyl ester as a brown oil. MS (APCI) m/z 507 (M−1).

reactant | (S)-3-(2-benzyloxy-4-nitro-benzenesulfonylamino)-4,4-diethoxy-butyric acid tert-butyl ester | 21.72 mmol, 11.7 g | C(C)(C)(C)OC(C[C@@H](C(OCC)OCC)NS(=O)(=O)C1=C(C=C(C=C1)[N+](=O)[O-])OCC1=CC=CC=C1)=O | C25H34N2O9S
reactant | hydrogen | [H][H] | H2
catalyst | Ni | [Ni] | Ni
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
product | (S)-3-(4-amino-2-benzyloxy-benzenesulfonylamino)-4,4-diethoxy-butyric acid tert-butyl ester | 21.72 mmol, 11.2 g, 100% | C(C)(C)(C)OC(C[C@@H](C(OCC)OCC)NS(=O)(=O)C1=C(C=C(C=C1)N)OCC1=CC=CC=C1)=O | C25H36N2O7S
